US07053107B2
3-[2-(4,6-Dimethyl-pyridin-2-yl)-vinyl]-6-nitro-1-(tetrahydro-pyran-2-yl)-1H-indazole
A suspension of 2-bromo-4,6-dimethylpyridine (2.42 g, 13 mmol), 3-vinyl-6-nitro-1-(tetrahydro -pyran-2-yl)-1H-indazole (2.37 g, 8.67 mmol), palladium acetate (0.145 g, 0.65 mmol), tri-ortho-tolylphosphine (0.791 g, 2.6 mmol), and diisopropylethylamine (2.4 mL, 13.8 mmol) in aqueous DMF (85%, 34.5 mL) was degassed with Argon bubbling for 5 minutes followed by sonication for 5 minutes before heating in microwave apparatus (300 watts, 10% power) at 110° C. for 40 minutes. After cooling, the mixture was dropped into cold water. The resulting yellow ppt was collected by filtration. The solids were dissolved in ethyl acetate, dried (sodium sulfate), and concentrated under reduced pressure. The residue was purified on silica gel using a gradient of 0 to 20% ethyl acetate in a mixture of chloroform and hexanes (1:1) as eluent. Product from chromatography was triturated with MTBElhexanes to obtain clean product as yellow solid. Mother liquor was repurified in a similar fashion on silica gel followed by trituration to obtain product in a 68% yield. 1H NMR (CDCl3): δ 8.54 (1H, s), 8.15 (1H, d, J=9.4 Hz), 8.08 (1H, dd, J=9.04,1.9 Hz), 7.87 (1H, d, J=16.6 Hz), 7.55 (1H, d, J=16.6 Hz), 7.14 (1H, s), 6.90 (1H, s), 5.82 (1H, dd, J=9.0, 3.0 Hz), 4.08–4.01 (1H, m), 3.84–3.76 (1H, m), 2.56 (3H, s), 2.62–2.54 (1H, m), 2.34 (3H, s), 2.24–2.10 (2H, m), 1.88–1.68 (3H, m).

reactant | 2-bromo-4,6-dimethylpyridine | 13 mmol, 2.42 g | BrC1=NC(=CC(=C1)C)C | C7H8BrN
reactant | 3-vinyl-6-nitro-1-(tetrahydro -pyran-2-yl)-1H-indazole | 8.67 mmol, 2.37 g | C(=C)C1=NN(C2=CC(=CC=C12)[N+](=O)[O-])C1OCCCC1 | C14H15N3O3
reactant | tri-ortho-tolylphosphine | 2.6 mmol, 0.791 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | diisopropylethylamine | 13.8 mmol, 2.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 34.5 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.65 mmol, 0.145 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[2-(4,6-Dimethyl-pyridin-2-yl)-vinyl]-6-nitro-1-(tetrahydro-pyran-2-yl)-1H-indazole | 68% yield | CC1=CC(=NC(=C1)C)C=CC1=NN(C2=CC(=CC=C12)[N+](=O)[O-])C1OCCCC1 | C21H22N4O3
